US04861798
9(3-methylphenyl)nonanohydroxamic acid
To a cold, stirring suspension of 1.3 gm hydroxylamine hydrochloride and 1.8 gm sodium carbonate in 25 ml CH2Cl2 was added dropwise 4 gms 9(3-methylphenyl)nonanoyl chloride. The reaction mixture was stirred at 5°-10° for 45 min, then 2.1 ml H2O was added and the mixture stirred overnight at room temperature. The suspension was then diluted with CH2Cl2 and water, shaken, and the organic layer was separated. It was washed three times with water and once with NaCl solution, dried over MgSO4, and filtered. The solvent was removed in vacuo to give an oil which solidified but which could not be crystallized. The solid was disolved in ether, shaken with 5% KOH, and the ether discarded. The aqueous layer was acidified and the precipitated solid extracted into CHCl3. The chloroform was washed twice with water and once with NaCl solution, dried over MgSO4, filtered, and evaporated in vacuo. The resulting oil was purified by silica gel column chromatography, using gradually increasing cocentrations of ethyl acetate in chloroform (0, 10%, 15%, 25%). Fractions containing the major component (detected by thin layer chromatography--Rf=0.4 in 1:1 ETOAc:CHCl3) were collected and evaporated down to give an off-white solid which was crystallized from CH2Cl2 :hexanes. Yield 1.3 gms (33%) product of m.p. 49°-50°. Elemental analysis: calculated C 72.98, H 9.57, N 5.32% found C 72.80, H 9.56, N 5.32%.

reactant | hydroxylamine hydrochloride | 1.3 gm | Cl.NO
reactant | sodium carbonate | 1.8 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9(3-methylphenyl)nonanoyl chloride | 4 gms | CC=1C=C(C=CC1)CCCCCCCCC(=O)Cl | C16H23ClO
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | H2O | 2.1 ml | O | H2O
product | 9(3-methylphenyl)nonanohydroxamic acid | CC=1C=C(C=CC1)CCCCCCCCC(=O)NO | C16H25NO2
